US07601714B2
2-Chloro-3-amino-benzoic acid methyl ester (1.20 g, 6.47 mmol) was placed in a round bottomed flask with DMF (5 mL), Potassium carbonate (1.97 g, 14.2 mmol) and methyl iodide (0.89 mL, 14.22 mmol) were added. A reflux condenser was fitted and the reaction was heated to 60° C. for 12 h. The reaction was cooled to rt, diluted with water (20 mL) and extracted with ethyl acetate (3×20 mL). The organics were dried (MgSO4), concentrated, then purified by column chromatography using hexanes/ethyl acetate (1:1) to afford 2-chloro-3-dimethylamino-benzoic acid methyl ester (1.04 g, 75%)

reactant | 2-Chloro-3-amino-benzoic acid methyl ester | 6.47 mmol, 1.20 g | COC(C1=C(C(=CC=C1)N)Cl)=O | C8H8ClNO2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | Potassium carbonate | 14.2 mmol, 1.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 14.22 mmol, 0.89 mL | CI | CH3I
solvent | water | 20 mL | O | H2O
product | 2-chloro-3-dimethylamino-benzoic acid methyl ester | 1.04 g, 75% | COC(C1=C(C(=CC=C1)N(C)C)Cl)=O | C10H12ClNO2
